US08937092B2
Nickel(II) chloride hexahydride (1 equiv.) and 2-(4-cyano-3-fluorophenyl)-N-((2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methyl)propanamide are stirred in anhydrous ethanol during 15 minute for activation. Sodium borohydrid (7 equiv.) is added on it and mixture stirred for 2 h. Adding celite to the reaction and filter it using celite packed filter, washing with ethanol. The reaction mixture is purified after concentration to obtain 2-(4-(aminomethyl)-3-fluorophenyl)-N-((2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methyl)propanamide.

reactant | 2-(4-cyano-3-fluorophenyl)-N-((2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methyl)propanamide | C(#N)C1=C(C=C(C=C1)C(C(=O)NCC=1C(=NC(=CC1)C(F)(F)F)C=1C=C(C=CC1)C)C)F | C24H19F4N3O
reactant | Sodium borohydrid | 7 equiv. | [BH4-].[Na+]
solvent | ethanol | C(C)O | C2H6O
catalyst | Nickel(II) chloride hexahydride | 1 equiv. | [NiH6-5]Cl
product | 2-(4-(aminomethyl)-3-fluorophenyl)-N-((2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methyl)propanamide | NCC1=C(C=C(C=C1)C(C(=O)NCC=1C(=NC(=CC1)C(F)(F)F)C=1C=C(C=CC1)C)C)F | C24H23F4N3O
